data/pmechdb/original/mc_train_fold0/raw/train.txt
C1=C(C=C(C(=C1)[N+](=O)[O-])F)CC[CH2:20][Br:21].[OH-:10]>>C1=C(C=C(C(=C1)[N+](=O)[O-])F)CC[CH2:20][OH:10].[Br-:21] 10=20;20,21=21
[H:20][OH:21].C(CO)C[O-:10]>>[H:20][O:10]CCCO.[OH-:21] 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.CCC(CCCNC(=O)CCl)(CCC1(CC2=C([NH2+]1)C=CC=C2)[O-:10])C=O>>[H:20][O:10]C1(CC2=C([NH2+]1)C=CC=C2)CCC(CC)(CCCNC(=O)CCl)C=O.C(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=C(O1)Br)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=C(O1)Br 10=20;20,21=21,22
CCN[C:20](CCC=O)([OH:10])[O:21]C(=O)C>>CCN[C:20](=[OH+:10])CCC=O.CC(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCNC(C)([N:10](CC)CC)O>>[H:20][N+:10](CC)(CC)C(C)(NCC)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
C[P:10](C)(C)([Mg]Cl)[Cl:11]>>C[P+:10](C)(C)[Mg]Cl.[Cl-:11] 10,11=11
C[CH:10]=[O+:11][Ti-](OC(C)C)(Cl)(Cl)Cl>>C[CH+:10][O:11][Ti-](OC(C)C)(Cl)(Cl)Cl 10,11=11
CCCOC(=O)C(CC)[N-][N+:21]#[N:20].C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3.[OH3+]>>CCCOC(=O)C(CC)[N-][N:21]=[N:20][P+:10](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[OH3+] 10=20;20,21=21
[H:20][OH2+:21].C[N-:10]C>>[H:20][N:10](C)C.[OH2:21] 10=20;20,21=21
[H:20][OH2+:21].[Li][O:10]C(CCC(=O)C)(C1=CC=CC=C1)C2=CC=CC=C2>>[H:20][O+:10]([Li])C(CCC(=O)C)(C1=CC=CC=C1)C2=CC=CC=C2.[OH2:21] 10=20;20,21=21
[H:20][O+:21](CC)C(CC)(OCC)OCC.OS(=O)(=O)[O-:10]>>CCC(OCC)(OCC)[O:21]CC.[H:20][O:10]S(=O)(=O)O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCNC(CCC(=O)OCC)([O-:10])Cl>>[H:20][O:10]C(CCC(=O)OCC)(NCC)Cl.OS(=O)(=O)[O-:21] 10=20;20,21=21
[B-:11]([CH:10]=CC1=CC=CC=C1)([NH2+]CC=C)(O)O.C=CC[NH+:21]=[CH:20]C(CCC1=CC=CC=C1)O.O>>[B:11]([NH2+]CC=C)(O)O.C=CC[NH:21][CH:20]([CH:10]=CC1=CC=CC=C1)C(CCC2=CC=CC=C2)O.O 10,11=10,20;20,21=21
[H:20][OH:21].CC(C)C(=O)C(C1=CC=CC=C1)C(CC2=CC=CC=C2)(C(C)C)[O-:10]>>[H:20][O:10]C(CC1=CC=CC=C1)(C(C)C)C(C2=CC=CC=C2)C(=O)C(C)C.[OH-:21] 10=20;20,21=21
[H:20][O:21]C(=CC(=O)C)CC1=CC=CC=C1.CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.CC(=O)C=C(CC1=CC=CC=C1)[O-:21] 10=20;20,21=21
C[C:20](=[O:21])[N+]1=CC=C(C=C1)N(C)C.CC(C)(C)[OH:10].CCN(CC)CC.CC(=O)[O-]>>CC(C)(C)[OH+:10][C:20](C)([N+]1=CC=C(C=C1)N(C)C)[O-:21].CCN(CC)CC.CC(=O)[O-] 10=20;20,21=21
CC[N+]1=[C-:10]SC(=C1C)CCO.C1=CC=C(C=C1)[CH:20]=[O:21].CC[NH+](CC)CC.CCO.COC1=CC=C(C=C1)C=CC(=O)C2=CC=C(C=C2)OC.[Br-]>>CC[N+]1=[C:10](SC(=C1C)CCO)[CH:20](C2=CC=CC=C2)[O-:21].CC[NH+](CC)CC.CCO.COC1=CC=C(C=C1)C=CC(=O)C2=CC=C(C=C2)OC.[Br-] 10=20;20,21=21
[H:20][C:21](C)([CH:22](C)[Br:23])Br.CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.C[CH:22]=[C:21](C)Br.[Br-:23] 10=20;22,23=23;20,21=21,22
[H:20][OH+:21]C.CO[P:10](OC)I>>[H:20][P+:10](OC)(OC)I.C[OH:21] 10=20;20,21=21
CC(C)CC(CC1CCCCC1)O[S:20]([O-:10])(Cl)[Cl:21].CC(C)CC(CC1CCCCC1)[OH2+].C1COCCO1>>CC(C)CC(CC1CCCCC1)O[S:20](=[O:10])Cl.[Cl-:21].CC(C)CC(CC1CCCCC1)[OH2+].C1COCCO1 10=20;20,21=21
[H:20][C:21](C)(C(=O)OCC)[C:22](=[O:23])OCC.[H:10][Na:11].C(I)(I)I>>CCO[C:22](=[C:21](C)C(=O)OCC)[O-:23].[H:10][H:20].[Na+:11].C(I)(I)I 10,11=10,20;22,23=23;20,21=21,22
CC(=O)O[I:10]1(C2=C(C=CC=C2)C(=O)O1)(OCC(=CC=C(C=O)SCC[Si](C)(C)C)SCC[Si](C)(C)C)[O:11]C(=O)C.CC(=O)O.CC(=O)OI1C2=C(C=CC=C2)C(=O)O1>>CC(=O)[O-:11].CC(=O)O[I+:10]1(C2=C(C=CC=C2)C(=O)O1)OCC(=CC=C(C=O)SCC[Si](C)(C)C)SCC[Si](C)(C)C.CC(=O)O.CC(=O)OI1C2=C(C=CC=C2)C(=O)O1 10,11=11
C1=CC=C(C=C1)C(=O)[C:20](C2=CC=CC=C2)([NH:10]CCN)[OH:21].CCO.C(CN)N>>C1=CC=C(C=C1)[C:20](=[NH+:10]CCN)C(=O)C2=CC=CC=C2.[OH-:21].CCO.C(CN)N 10=20;20,21=21
[H:10][C:11]1(CCC(CC1CC(C)C)C)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1CC(C)C)C.CC(C)[O-] 10,11=10,20;20,21=21;12=11
C[NH+]1CCC(CC1)(C2=CC=CC=C2)[C:20]([NH3+:21])(OC)[O:10]C.[O-]S(=O)(=O)[O-]>>C[NH+]1CCC(CC1)(C2=CC=CC=C2)[C:20](=[O+:10]C)OC.[NH3:21].[O-]S(=O)(=O)[O-] 10=20;20,21=21
[Li+:20].C[P:10](C)C>>[Li:20][P+:10](C)(C)C 10=20,
[H:20][CH:21](C)C#N.CC[O-:10]>>[H:20][O:10]CC.C[CH-:21]C#N 10=20;20,21=21
[B:20](F)(F)F.C(=[O:10])N>>[B-:20]([O+:10]=CN)(F)(F)F 10=20,
C[Si:20](C)(C)OS(=O)(=O)C.[Cl-:10]>>C[Si-:20](C)(C)(OS(=O)(=O)C)[Cl:10] 10=20,
[H:20][C:21]12C=CC=C[C+:22]1CCCCC2C.[F-:10]>>[H:20][F:10].CC1CCCC[C:22]2=[C:21]1C=CC=C2 10=20;20,21=21,22
C[Si](C)(C)C=[C:11]=[CH2:10].[CH2:20]=[O+:21][Fe]>>C[Si](C)(C)C=[C+:11][CH2:10][CH2:20][O:21][Fe] 10,11=10,20;20,21=21
C1COCC[NH:10]1.C1=CC=C(C=C1)C(=O)[CH2:20][Br:21]>>C1COCC[NH+:10]1[CH2:20]C(=O)C2=CC=CC=C2.[Br-:21] 10=20;20,21=21
[H:20][C:21](C)(C)[C:22](=[O:23])C(C)C.[OH-:10]>>[H:20][OH:10].CC(C)[C:22](=[C:21](C)C)[O-:23] 10=20;22,23=23;20,21=21,22
C[NH:10][C:20]1(OCCO1)[OH2+:21]>>C[NH+:10]=[C:20]1OCCO1.[OH2:21] 10=20;20,21=21
CCN[C:20](C)([O-:10])[Cl:21]>>CCN[C:20](=[O:10])C.[Cl-:21] 10=20;20,21=21
COC1=C(C(=CC=C1)C#N)C(=O)C2=C(C=C(C=C2OC)[C:20](=[O:21])C(Br)(Br)Br)OC.[OH-:10].[Na+].[Br-]>>COC1=C(C(=CC=C1)C#N)C(=O)C2=C(C=C(C=C2OC)[C:20](C(Br)(Br)Br)([OH:10])[O-:21])OC.[Na+].[Br-] 10=20;20,21=21
[H:20][C:21]1(C2=C(C=CC=C2)C=C[C+:22]1OC)Br.[Br-:10]>>[H:20][Br:10].CO[C:22]1=[C:21](C2=C(C=CC=C2)C=C1)Br 10=20;20,21=21,22
